US07482341B2
2,5-Difluoro-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-benzenesulfonamide
This material was prepared in analogy to example 1 from 6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-ylamine (0.08 g) and 2,5-difluoro-benzenesulfonyl chloride (0.07 g) as a light yellow solid (0.086 g). MS (ESI−): 443.0 ([M−H]−)

reactant | 6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-ylamine | 0.08 g | FC(C1=CC=C(OCC2=CC=CC(=N2)N)C=C1)(F)F | C13H11F3N2O
reactant | 2,5-difluoro-benzenesulfonyl chloride | 0.07 g | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
product | 2,5-Difluoro-N-[6-(4-trifluoromethyl-phenoxymethyl)-pyridin-2-yl]-benzenesulfonamide | FC1=C(C=C(C=C1)F)S(=O)(=O)NC1=NC(=CC=C1)COC1=CC=C(C=C1)C(F)(F)F | C19H13F5N2O3S
